US04684648
Thionyl chloride (70 ml) is added to 2-bromo-4,5-difluorobenzoic acid (39.5 g), and the mixture is allowed to stand at room temperature for one hour and then refluxed for one hour. After completion of the reaction, the excess thionyl chloride is distilled off under reduced pressure. The oily residue is distilled under reduced pressure to give 2-bromo-4,5-difluorobenzoyl chloride (37.8 g) as a pale yellow oily substance, b.p. 121°-123° C. (32 mmHg).

reactant | 2-bromo-4,5-difluorobenzoic acid | 39.5 g | BrC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3BrF2O2
reactant | Thionyl chloride | 70 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-bromo-4,5-difluorobenzoyl chloride | 37.8 g | BrC1=C(C(=O)Cl)C=C(C(=C1)F)F | C7H2BrClF2O
